US07109380B2
To a refluxed solution of triphenylphosphine (5.84 g, 22.3 mmol) in dry THF (25 mL) under nitrogen is slowly added bromomethyl styryl ketone (5.0 g, 22.3 mmol, in 25 ml THF). The reaction mixture is refluxed for 2 hrs. After cooling, the white precipitate is collected by filtration and washed with Et2O. Crystallization of the product with methanol gives triphenyl cinnamoylmethyl phosphonium bromide (9.3 g, 86%) as colorless needles, 1H NMR (400 MHz, DMSO-d6) d 8.02 (1H, d, J=16.0 Hz, β-CH═), 7.87, 7.76, 7.49 (20H, m, Ph), 7.00 (1H, d, J=16.0 Hz, a-CH═), 6.07 (2H, d, J=13.2 Hz CH2Br).

reactant | triphenylphosphine | 22.3 mmol, 5.84 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromomethyl styryl ketone | 22.3 mmol, 25 ml, 5.0 g | C(=CC1=CC=CC=C1)C(=O)CBr | C10H9BrO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | triphenyl cinnamoylmethyl phosphonium bromide | 9.3 g, 86% | [Br-].C1(=CC=CC=C1)[P+](CC(C=CC1=CC=CC=C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H24OP.BrH/c29-25(22-21-24-13-5-1-6-14-24)23-30(26-15-7-2-8-16-26,27-17-9-3-10-18-27)28-19-11-4-12-20-28;/h1-22H,23H2;1H/q+1;/p-1
